US06509328B1
{4-(4-Fluoro-phenylethynyl)-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example G33) (163 mg, 0.5 mmol) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example H2) (181 mg, 0.7 mmol) according to the general procedure K. Obtained as a yellow oil (107 mg).

reactant | [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | 0.5 mmol, 163 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)N)=O | C19H19FN2O2
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | 0.7 mmol, 181 mg | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | {4-(4-Fluoro-phenylethynyl)-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester | 107 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C30H26FN5O4
